US08217069B2
4-Amino-5-chloro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-ylsulfonyl)phenol
5-Chloro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-ylsulfonyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)phenol (0.49 g) was dissolved in tetrahydrofuran (10 mL). To the solution was added hydrazine monohydrate (0.25 mL), and the mixture was heated at reflux for 2 hours. The reaction mixture was cooled to room temperature, and diluted with ethyl acetate. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane−n-hexane/ethyl acetate=1/1) to give the title compound (0.27 g).

reactant | 5-Chloro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-ylsulfonyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)phenol | 0.49 g | ClC=1C(=CC(=C(C1)O)S(=O)(=O)N1CCCCC2=C1C=CC=C2)N2C(C1=CC=CC=C1C2=O)=O | C24H19ClN2O5S
reactant | hydrazine monohydrate | 0.25 mL | O.NN
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Amino-5-chloro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-ylsulfonyl)phenol | 0.27 g | NC1=CC(=C(C=C1Cl)O)S(=O)(=O)N1CCCCC2=C1C=CC=C2 | C16H17ClN2O3S
